US08084485B2
To a solution of tert-butyl (2S,3S,5S)-1-amino-5-(benzyloxymethyl)-2-hydroxy-6-methylheptan-3-ylcarbamate (500 mg, 1.32 mmol) in CH2Cl2 (15 mL), were added 2,2-dimethylhexanoic acid (220 mg, 1.45 mmol), HOBt (360 mg, 2.65 mmol) and EDCl (500 mg, 2.65 mmol). The mixture was cooled to 0° C. and DIEA (850 mg, 6.6 mmol) was added. The resulting mixture was allowed to warm to rt and stirred for 5 h. The reaction mixture was washed with water and brine, dried over Na2SO4, filtered and concentrated in vacuo to give crude product, which was purified by column chromatography on silica gel to produce tert-butyl (2S,3S,5S)-5-(benzyloxymethyl)-1-(2,2-dimethylhexanamido)-2-hydroxy-6-methylheptan-3-ylcarbamate (310 mg, 46%); MS: 507 (M++1)

reactant | tert-butyl (2S,3S,5S)-1-amino-5-(benzyloxymethyl)-2-hydroxy-6-methylheptan-3-ylcarbamate | 1.32 mmol, 500 mg | NC[C@@H]([C@H](C[C@@H](C(C)C)COCC1=CC=CC=C1)NC(OC(C)(C)C)=O)O | C21H36N2O4
reactant | 2,2-dimethylhexanoic acid | 1.45 mmol, 220 mg | CC(C(=O)O)(CCCC)C | C8H16O2
reactant | HOBt | 2.65 mmol, 360 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 2.65 mmol, 500 mg | CCN=C=NCCCN(C)C.Cl
reactant | DIEA | 6.6 mmol, 850 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (2S,3S,5S)-5-(benzyloxymethyl)-1-(2,2-dimethylhexanamido)-2-hydroxy-6-methylheptan-3-ylcarbamate | 310 mg, 46% | C(C1=CC=CC=C1)OC[C@@H](C[C@@H]([C@H](CNC(C(CCCC)(C)C)=O)O)NC(OC(C)(C)C)=O)C(C)C | C29H50N2O5
